US08877739B2
Synthesis of 3-({[(2S)-2-amino-3-methoxy-3-oxopropoxy]carbonyl}amino)benzene-1-sulfonic acid
Boc-Ser-OME, 110 mg (0.5 mmol), and 87 mg (0.5 mmol) of 3-aminobenzenesulfonic acid were dissolved in 1 ml of pyridine, and 50 mg of triphosgene was added to the solution. The mixture was stirred at room temperature for 2 hours and the solvent was then distilled off. The resulting residue was purified according to the purification step A to give the crude product of the protected title compound. The crude product obtained was dissolved in 1 ml of methylene chloride and 1 ml of trifluoroacetic acid. The solution was stirred for 30 minutes at room temperature. After the solvent was distilled off, the mixture was purified in accordance with the purification step A to give the title compound.

reactant | Boc-Ser-OME | CC(C)(C)OC(=O)N[C@@H](CO)C(=O)OC | C9H17NO5
reactant | 3-aminobenzenesulfonic acid | 0.5 mmol, 87 mg | NC=1C=C(C=CC1)S(=O)(=O)O | C6H7NO3S
reactant | triphosgene | 50 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-({[(2S)-2-amino-3-methoxy-3-oxopropoxy]carbonyl}amino)benzene-1-sulfonic acid | N[C@@H](COC(=O)NC=1C=C(C=CC1)S(=O)(=O)O)C(=O)OC | C11H14N2O7S
